US08058300B2
Step 3: 5-(4-Bromo-2-methoxy-phenyl)-3-methyl-isoxazole-4-carboxylic acid methyl ester:
Prepared according to the procedure described in Example 1, Step 3 using 2-(4-bromo-2-methoxy-benzoyl)-3-oxo-butyric acid methyl ester and hydroxylamine hydrochloride.

reactant | 2-(4-bromo-2-methoxy-benzoyl)-3-oxo-butyric acid methyl ester | COC(C(C(C)=O)C(C1=C(C=C(C=C1)Br)OC)=O)=O | C13H13BrO5
reactant | hydroxylamine hydrochloride | Cl.NO
product | 5-(4-Bromo-2-methoxy-phenyl)-3-methyl-isoxazole-4-carboxylic acid methyl ester | COC(=O)C=1C(=NOC1C1=C(C=C(C=C1)Br)OC)C | C13H12BrNO4
